US07547779B2
Step 1. 2-Hydroxy-4-methoxy-5-nitropyridine
THF (100 mL) was cooled to −78° C. and anhydrous NH3 (−200 mL) was condensed into the THF. Potassium t-butoxide (45.5 g, 405 mmol) was added and the mixture was allowed to warm to ˜−35° C. 4-Methoxy-3-nitropyridine (25.0 g, 162 mmol) was cooled to 0° C. in THF (200 mL) and a solution of t-BuOOH (5 M in decane, 34 mL, 170 mmol) was added over 10 min. This solution was then added dropwise to the KOt-Bu solution over 1 h, then stirred for 2 h at −35° C. and then carefully quenched with ˜50 mL of sat. NH4Cl solution. The mixture was allowed to vent and warm to rt overnight, then the organics were concentrated and the residue made acidic with NH4Cl solution and filtered. The solid was washed with cold H2O and dried to give the title compound as a tan solid (14.0 g, 51%).

reactant | NH3 | −200 mL | N | H3N
reactant | Potassium t-butoxide | 405 mmol, 45.5 g | CC(C)([O-])C.[K+]
reactant | 4-Methoxy-3-nitropyridine | 162 mmol, 25.0 g | COC1=C(C=NC=C1)[N+](=O)[O-] | C6H6N2O3
reactant | t-BuOOH | 170 mmol, 5 M, 34 mL | C(C)(C)(C)OO | C4H10O2
reactant | KOt-Bu | CC(C)(C)[O-].[K+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Hydroxy-4-methoxy-5-nitropyridine | 14.0 g, 51% | OC1=NC=C(C(=C1)OC)[N+](=O)[O-] | C6H6N2O4
